US06127541
2-(2-Morpholinoethylamino)benzonitrile
According to a similar manner to that in Reference Example 3, the title compound was synthesized from 2-fluorobenzonitrile and 4-(2-aminoethyl)morpholine.

reactant | 2-fluorobenzonitrile | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | 4-(2-aminoethyl)morpholine | NCCN1CCOCC1 | C6H14N2O
product | 2-(2-Morpholinoethylamino)benzonitrile | O1CCN(CC1)CCNC1=C(C#N)C=CC=C1 | C13H17N3O
